US03962307
2,5-Diisobutylnitrobenzene is treated with chloromethylmethyl ether in the presence of 60% fuming sulfuric acid by the procedure of Example 29 to yield 2,5-diisobutyl-3-nitrobenzyl chloride. This is brominated by the procedure (of Example 11) to form 4-bromo-2,5-diisobutyl-3-nitrobenzyl chloride and 6-bromo-2,5-diisobutyl-3-nitrobenzyl chloride. This mixture is separated by fractional crystallization or chromatography and the 4-bromo-2,5-diisobutyl-3-nitrobenzyl chloride is treated with cuprous cyanide by the procedure of Example 22 to give 4-cyano-2,5-diisobutyl-3-nitrobenzeneacetonitrile.

reactant | 2,5-Diisobutylnitrobenzene | C(C(C)C)C1=C(C=C(C=C1)CC(C)C)[N+](=O)[O-] | C14H21NO2
reactant | chloromethylmethyl ether | ClCOC | C2H5ClO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2,5-diisobutyl-3-nitrobenzyl chloride | C(C(C)C)C1=C(CCl)C=C(C=C1[N+](=O)[O-])CC(C)C | C15H22ClNO2
